US07745438B2
N-{(1S,2S)-1-(3,5-Difluorobenzyl)-2-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-2-hydroxyethyl}-2-methoxyacetamide hydrochloride
Dissolve (1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-[(5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-propan-1-ol (31 mg, 0.083 mmol) in dry 1:1 dichloromethane:diethyl ether (1 mL) under nitrogen. Cool to 0° C. and add dropwise methoxyacetyl chloride (7.6 μL, 0.083 mmol). Stir for 1 hour, quench with methanol, concentrate and purify (reverse-phase HPLC, eluting with 10:90 to 50:50 acetonitrile:water with 8 mM hydrochloric acid), to give the title compound (26 mg, 65%).

reactant | (1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-[(5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-propan-1-ol | 0.083 mmol, 31 mg | N[C@H]([C@H](O)C1N[C@H]([C@@H](OC1)OCC(C)(C)C)C)CC1=CC(=CC(=C1)F)F | C19H30F2N2O3
reactant | methoxyacetyl chloride | 0.083 mmol, 7.6 μL | COCC(=O)Cl | C3H5ClO2
product | N-{(1S,2S)-1-(3,5-Difluorobenzyl)-2-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-2-hydroxyethyl}-2-methoxyacetamide hydrochloride | 26 mg, 65% | Cl.FC=1C=C(C[C@@H]([C@H](O)[C@@H]2N[C@H]([C@@H](OC2)OCC(C)(C)C)C)NC(COC)=O)C=C(C1)F | InChI=1S/C22H34F2N2O5.ClH/c1-13-21(31-12-22(2,3)4)30-10-18(25-13)20(28)17(26-19(27)11-29-5)8-14-6-15(23)9-16(24)7-14;/h6-7,9,13,17-18,20-21,25,28H,8,10-12H2,1-5H3,(H,26,27);1H/t13-,17-,18+,20-,21-;/m0./s1
